US07700594B2
6-(Aminomethyl)-3-methyl-1,2,4-triazin-5(4H)-one
A solution of 2-[(3-methyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)methyl]-1H-isoindole-1,3(2H)-dione (2.00 g, 7.40 mmol) in DCM (10.0 mL) and EtOH (10.0 mL) was charged with hydrazine (0.58 mL, 18.5 mmol) and stirred at rt for 8 h, then heated to 45° C. for an additional 16 h. The reaction was charged with an additional 0.5 equiv of hydrazine (0.116 mL, 3.70 mmol) and heated to 45° C. for 4 h. The reaction mixture was allowed to cool to rt then filtered through a fritted funnel and the cake was washed with 2 portions of cold 1:1 EtOH/DCM (75 mL) and the filtrate was concentrated resulting in 622 mg of a pale yellow solid which was taken on to the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.21 (s, 3H), 3.72 (s, 2H); MS (ES+): m/z 141.06 [MH+].

reactant | 2-[(3-methyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)methyl]-1H-isoindole-1,3(2H)-dione | 7.40 mmol, 2.00 g | CC1=NN=C(C(N1)=O)CN1C(C2=CC=CC=C2C1=O)=O | C13H10N4O3
reactant | hydrazine | 18.5 mmol, 0.58 mL | NN | H4N2
reactant | hydrazine | 3.70 mmol, 0.116 mL, 0.5 equiv | NN | H4N2
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10.0 mL | CCO | C2H6O
product | 6-(Aminomethyl)-3-methyl-1,2,4-triazin-5(4H)-one | 622 mg | NCC=1C(NC(=NN1)C)=O | C5H8N4O
